US07241317B2
Step 1: Synthesis of 1-benzyl-4-(4-nitrophenyl)-[1,4]diazepane (1)
Fluoronitrobenzene (3.09 g, 21.9 mmol) is dissolved in water (14 ml), and then potassium carbonate (3.64 g, 26.28 mmol) and 1-benzylhomopiperazine (5 g, 26.28 mmol) are added. The medium is heated at 90° C. for 4 h 20 min and then cooled to room temperature. The precipitate formed is filtered, and a yellow solid is obtained. 6.30 g (92.5%) of product are recovered.

reactant | Fluoronitrobenzene | 21.9 mmol, 3.09 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | potassium carbonate | 26.28 mmol, 3.64 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-benzylhomopiperazine | 26.28 mmol, 5 g | C(C1=CC=CC=C1)N1CCNCCC1 | C12H18N2
solvent | water | 14 ml | O | H2O
product | 1-benzyl-4-(4-nitrophenyl)-[1,4]diazepane | C(C1=CC=CC=C1)N1CCN(CCC1)C1=CC=C(C=C1)[N+](=O)[O-] | C18H21N3O2
